US04279897
Synthesis of O,S-dimethyl N-(N'-propoxycarbonyl-N'-isopropylaminosulfenyl)phosphoramidothioate.
To a stirred mixture of 4.0 g (0.028 mol) O,S-dimethyl phosphoramidothioate, 2.2 g pyridine (0.028 mol) and 15 ml of anhydrous methylene chloride, chilled to 0°-5° C., was added dropwise 6.0 g (0.028 mol) propyl (chlorosulfenyl)(isopropyl)carbamate over a period of 15 minutes. Pyridine hydrochloride forms immediately during addition of the sulfenyl chloride. The reaction mixture was stirred for an additional half hour at room temperature after the addition of the sulfenyl chloride.

reactant | O,S-dimethyl phosphoramidothioate | 0.028 mol, 4.0 g | P(OC)(SC)(N)=O | C2H8NO2PS
reactant | pyridine | 0.028 mol, 2.2 g | N1=CC=CC=C1 | C5H5N
reactant | propyl (chlorosulfenyl)(isopropyl)carbamate | 0.028 mol, 6.0 g | ClSN(C(OCCC)=O)C(C)C | C7H14ClNO2S
reactant | Pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | sulfenyl chloride | S(Cl)Cl | Cl2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | O,S-dimethyl N-(N'-propoxycarbonyl-N'-isopropylaminosulfenyl)phosphoramidothioate | C(CC)OC(=O)N(SNP(OC)(SC)=O)C(C)C | C9H21N2O4PS2
